US06482841B1
2,6-Dimethyl-4-(2,3-dimethoxyphenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
A mixture of 11 g (0,025 mol) of 2,6-dimethyl-4-(2,3-dimethoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester and 92 g (0,076 mol) of pyridinium chlorochromate absorbed on alumina, was suspended on 250 ml of CH2C12, and the whole mixture was maintained on stirring at room temperature for 6 hours. The remaining solid was eliminated by filtration, and the liquid was washed with water (3×300 ml), dried over anh. Na2SO4, and concentrated at reduced pressure, to dryness. The product was obtained as an oil, which was purified by column chromatography (Silicagel, n-hexane:EtAcO, 8:2) with a yield of 79%.

reactant | 2,6-dimethyl-4-(2,3-dimethoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | 0,025 mol, 11 g | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C(=CC=C1)OC)OC | C23H29NO7
reactant | pyridinium chlorochromate | 0,076 mol, 92 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 2,6-Dimethyl-4-(2,3-dimethoxyphenyl) pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 79% | O1C(CCC1)COC(=O)C=1C(=C(C(=NC1C)C)C(=O)OC)C1=C(C(=CC=C1)OC)OC | C23H27NO7
